US04654348
2-Phenyl-3-hydroxy-7-ethoxycarbonylmethylthio-pyrazolo[4,3-d]pyrimidine
1.22 g of 2-phenyl-3-hydroxy-7-mercapto-pyrazolo [4,3-d]pyrimidine was suspended in 100 ml of ethanol, and 0.5 g of potassium hydrogen carbonate was added. While heating the mixture at 80° C., 1 g of ethyl bromoacetate was dropwise added, and the heating and reaction were continued for further 2 hours. Then, the solvent was distilled off. Water was added to the residue, and the residue was dissolved. The solution was acidified with hydrochloric acid, and the precipitated crystals were extracted with chloroform. The chloroform layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off. The remaining solid was recrystallized from acetone-chloroform.

reactant | 2-phenyl-3-hydroxy-7-mercapto-pyrazolo [4,3-d]pyrimidine | 1.22 g | C1(=CC=CC=C1)N1N=C2C(N=CN=C2S)=C1O | C11H8N4OS
reactant | potassium hydrogen carbonate | 0.5 g | C(O)([O-])=O.[K+]
reactant | ethyl bromoacetate | 1 g | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Phenyl-3-hydroxy-7-ethoxycarbonylmethylthio-pyrazolo[4,3-d]pyrimidine | C1(=CC=CC=C1)N1N=C2C(N=CN=C2SCC(=O)OCC)=C1O | C15H14N4O3S
